US07888352B2
2-Chloro-4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)thieno[3,2-d]pyrimidine was reacted with 2-fluoropyridine-4-boronic acid in General Procedure A. Purification on silica yielded 2-(2-fluoro-pyridin-4-yl)-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine.

reactant | 2-Chloro-4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | 2-fluoropyridine-4-boronic acid | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
product | 2-(2-fluoro-pyridin-4-yl)-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | FC1=NC=CC(=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C21H25FN6O3S2
